US04026891
(a) 6-(3'-Nitro-4'-acetylamino-phenyl)-4,5-dihydro-3(2H)-pyridazinone
32.5 gm of 3-(3'-nitro-4'-acetylamino-benzoyl)-propionic acid were added toa solution of 32.5 gm of hydrazine hydrate in 180 ml of glacial acetic acid, and the mixture was heated on a steam bath. After cooling, the precipitate formed thereby was suction-filtered off and washed with ether,yielding the desired compound; m.p. 223° C.

reactant | 3-(3'-nitro-4'-acetylamino-benzoyl)-propionic acid | 32.5 gm | [N+](=O)([O-])C=1C=C(C(=O)CCC(=O)O)C=CC1NC(C)=O | C12H12N2O6
reactant | hydrazine hydrate | 32.5 gm | O.NN
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 6-(3'-Nitro-4'-acetylamino-phenyl)-4,5-dihydro-3(2H)-pyridazinone | [N+](=O)([O-])C=1C=C(C=CC1NC(C)=O)C=1CCC(NN1)=O | C12H12N4O4
